US09102684B2
5-(3,5-Dimethyl-isoxazol-4-yl)-1H-indole-2,3-dione
5-iodo-1H-indole-2,3-dione (24.0 g, 83.5 mmol) and 2,5-dimethylisoxazole-4-boronic acid (16.0 g, 111.3 mmol) are dissolved in a mixture of water (400 mL) and 2-propanol (800 mL). Triethylamine (36.0 mL, 253.3 mmol) is added followed by 1,1-bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (1.0 g, 1.4 mmol). The mixture is purged with argon and then heated at reflux for 5 hours. The solvent is removed in vacuo and the residue partitioned between water and dichloromethane. The organic phase is dried over magnesium sulfate. And the volatiles removed in vacuo. The residue is purified by column chromatography on silica gel using a cyclohexane/ethyl acetate gradient. This afforded the desired product.

reactant | 5-iodo-1H-indole-2,3-dione | 83.5 mmol, 24.0 g | IC=1C=C2C(C(NC2=CC1)=O)=O | C8H4INO2
reactant | 2,5-dimethylisoxazole-4-boronic acid | 111.3 mmol, 16.0 g | CN1OC(=C(C1)B(O)O)C | C5H10BNO3
reactant | Triethylamine | 253.3 mmol, 36.0 mL | C(C)N(CC)CC | C6H15N
solvent | water | 400 mL | O | H2O
solvent | 2-propanol | 800 mL | CC(C)O | C3H8O
product | 5-(3,5-Dimethyl-isoxazol-4-yl)-1H-indole-2,3-dione | CC1=NOC(=C1C=1C=C2C(C(NC2=CC1)=O)=O)C | C13H10N2O3
